US06407076B1
N-(2-Pyridin-4-yl-ethyl)-5′-O-trifluoromethyladenosine
(2R,3R,4S,5R)-2-(6-Chloro-purin-9-yl)-5-trifluoromethoxymethyl-tetrahydro-furan-3,4-diol (42 mg), 2-pyridin-4-yl-ethylamine (58 mg), and diisopropylethylamine (0.124 ml) were heated at 80° C. in isopropanol (5 ml) in a reactivial for 17 h. The solution was evaporated under a stream of nitrogen and purified by autoprep HPLC to afford the title compound as a colourless solid (16 mg).

reactant | (2R,3R,4S,5R)-2-(6-Chloro-purin-9-yl)-5-trifluoromethoxymethyl-tetrahydro-furan-3,4-diol | 42 mg | ClC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC(F)(F)F | C11H10ClF3N4O4
reactant | 2-pyridin-4-yl-ethylamine | 58 mg | N1=CC=C(C=C1)CCN | C7H10N2
reactant | diisopropylethylamine | 0.124 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | N-(2-Pyridin-4-yl-ethyl)-5′-O-trifluoromethyladenosine | 16 mg | N1=CC=C(C=C1)CCNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](COC(F)(F)F)O3)C2N=CN1 | C18H19F3N6O4
